US09290517B2
Step B: (3S)-6-[[6-chloro-5-[4-(3,5-difluoro-2-methoxy-phenyl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
Combined (3S)-6-[6-chloro-5-[4-(3,5-difluoro-2-methoxy-phenyl)phenyl]-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexa-hydrofuro[3,2-b]furan-3-ol (36.8 mg, 0.057 mmol), formic acid (0.6 ml, 15.6 mmol), and saturated aqueous KHSO4 (0.05 ml) in a flask. The yellow solution was heated to 40° C. with stirring. After 22 hours, the reaction mixture was cooled to room temperature before being cooled to 0° C. in an ice bath. Then 5N NaOH (3 ml) was added to the reaction mixture and the mixture was allowed to warm to room temperature. The reaction mixture was diluted with THF (2.0 ml) to give a hazy mixture. After 20 minutes, 2 N aqueous HCl (1.1 mL) was added. The reaction mixture was partitioned between EtOAc (35 ml) and water (20 ml), then the organic phase was washed with brine (1×10 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to a give the product as a solid. LC-MS: calculated for C25H20ClF2N3O5 515.11 observed m/e: 516.10 (M+H)+ (Rt 1.22/2 min)

reactant | (3S)-6-[6-chloro-5-[4-(3,5-difluoro-2-methoxy-phenyl)phenyl]-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexa-hydrofuro[3,2-b]furan-3-ol | 0.057 mmol, 36.8 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=C(C(=CC(=C1)F)F)OC)N=C(N2COCC[Si](C)(C)C)OC2COC1C2OC[C@@H]1O | C31H34ClF2N3O6Si
reactant | formic acid | 15.6 mmol, 0.6 ml | C(=O)O | CH2O2
reactant | KHSO4 | 0.05 ml | OS(=O)(=O)[O-].[K+]
reactant | NaOH | 5N, 3 ml | [OH-].[Na+]
reactant | HCl | 2 N, 1.1 mL | Cl | ClH
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | (3S)-6-[[6-chloro-5-[4-(3,5-difluoro-2-methoxy-phenyl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=C(C(=CC(=C1)F)F)OC)N=C(N2)OC2COC1C2OC[C@@H]1O | C25H20ClF2N3O5
